US06734203B2
2-Methoxyethylamine (1.6 ml) was added to a solution of methyl 4,7-dihydro-4,7-dioxobenzo[b]thiophene-2-carboxylate (2.4 g) in tetrahydrofuran (100 ml) and the mixture was stirred at room temperature for 27 hours. After evaporation of the solvent, the residue was purified by silica gel column chromatography (elution with chloroform) to give methyl 4,7-dihydro-5-(2-methoxyethyl)amino-4,7-dioxobenzo[b]thiophene-2-carboxylate (1.5 g) as a yellow powder.

reactant | 2-Methoxyethylamine | 1.6 ml | COCCN | C3H9NO
reactant | methyl 4,7-dihydro-4,7-dioxobenzo[b]thiophene-2-carboxylate | 2.4 g | O=C1C=CC(C=2SC(=CC21)C(=O)OC)=O | C10H6O4S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | methyl 4,7-dihydro-5-(2-methoxyethyl)amino-4,7-dioxobenzo[b]thiophene-2-carboxylate | 1.5 g | COCCNC=1C(C2=C(SC(=C2)C(=O)OC)C(C1)=O)=O | C13H13NO5S
